US04289772
Potassium hydroxide flakes (2 g) were added to a solution of methylammonium chloride (8.5 g) in methanol (75 ml) at 0°-5°. 1-Acetylpiperid-4-one (14 g) was then added, the mixture stirred for 15 minutes and then a solution of sodium cyanoborohydride (2.5 g) in methanol (25 ml) was added over a period of 30 minutes. The mixture was stirred at room temperature overnight and then potassium hydroxide (6 g) was added. After filtration through sodium carbonate, the filtrate was evaporated to dryness and the residue was partitioned between chloroform (100 ml) and aqueous potassium hydroxide (2.5 g in 15 ml H2O). The chloroform layer was dried (Na2CO3) and evaporated to give a colorless oil which was dissolved in a mixture of ethanol (40 ml) and isopropyl alcohol (40 ml), then excess hydrogen chloride gas was bubbled into the cooled solution (ice bath). Addition of acetone resulted in the slow crystallization of 1-acetyl-4-methylaminopiperidine hydrochloride (5.5 g) (identified by n.m.r.).

reactant | Potassium hydroxide | [OH-].[K+]
reactant | methylammonium chloride | 8.5 g | [Cl-].C[NH3+]
reactant | 1-Acetylpiperid-4-one | 14 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | sodium cyanoborohydride | 2.5 g | C(#N)[BH3-].[Na+]
reactant | potassium hydroxide | 6 g | [OH-].[K+]
solvent | methanol | 75 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | isopropyl alcohol | 40 ml | C(C)(C)O | C3H8O
product | 1-acetyl-4-methylaminopiperidine hydrochloride | 5.5 g | Cl.C(C)(=O)N1CCC(CC1)NC | InChI=1S/C8H16N2O.ClH/c1-7(11)10-5-3-8(9-2)4-6-10;/h8-9H,3-6H2,1-2H3;1H
